* Z:\mnt\design.r\spice\examples\1784.asc
V1 +V 0 5
R1 N002 +V 1K
R2 N001 IN 1K
V3 IN 0 SINE(0 1 10)
XU1 0 N001 N002 +V 0 NC_01 LT1784
R3 OUT N001 1K
D1 N002 OUT BAT54
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 300m
* Single Supply Full Wave Rectifier
.lib LTC2.LIB
.backanno
.end
